US06235750B1
6-[(N-(3,4-Dimethoxybenzyl))-4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine
Prepared from Example 13, using 3,4-dimethoxybenzyl bromide to alkylate 6-[4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine, in 89%, mp 150-165° C. as the hydrochloride salt.

reactant | 3,4-dimethoxybenzyl bromide | COC=1C=C(CBr)C=CC1OC | C9H11BrO2
reactant | 6-[4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine | N1CCC(CC1)C1=CC=C(C=C1)C1=CC=CC(=N1)N | C16H19N3
product | 6-[(N-(3,4-Dimethoxybenzyl))-4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine | COC=1C=C(CN2CCC(CC2)C2=CC=C(C=C2)C2=CC=CC(=N2)N)C=CC1OC | C25H29N3O2
